US08541457B2
Preparation of 2-Amino-4-methylthiazole-5-carboxylic Acid 4-Chlorobenzylamide
Following the procedure as described in Preparation 1, making variation only as required to use 4-chlorobenzylamine to replace benzylamine to react with 2-amino-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white solid in 15% yield; 1H NMR (CD3OD, 300 MHz) δ 7.26-7.32 (m, 4H), 4.41 (s, 2H), 2.38 (s, 3H). MS (ES+) m/z 282.1 (M+1).

reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-amino-4-methylthiazole-5-carboxylic acid | NC=1SC(=C(N1)C)C(=O)O | C5H6N2O2S
product | 2-Amino-4-methylthiazole-5-carboxylic Acid 4-Chlorobenzylamide | 15% yield | ClC1=CC=C(CNC(=O)C2=C(N=C(S2)N)C)C=C1 | C12H12ClN3OS
